US04547507
Using the procedure of Example 19, 1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride and bromomethylcyclohexane were reacted to obtain 2-cyclohexylmethyl-1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride with the melting point and analysis of Table II.

reactant | 1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride | Cl.C1NCCC2=C1C(C1=C(S2)C=CC=C1)=O
reactant | bromomethylcyclohexane | BrCC1CCCCC1 | C7H13Br
product | 2-cyclohexylmethyl-1,2,3,4-tetrahydro-10H-(1)-benzothiopyrano[3,2-c]pyridin-10-one hydrochloride | Cl.C1(CCCCC1)CN1CC2=C(CC1)SC1=C(C2=O)C=CC=C1 | InChI=1S/C19H23NOS.ClH/c21-19-15-8-4-5-9-17(15)22-18-10-11-20(13-16(18)19)12-14-6-2-1-3-7-14;/h4-5,8-9,14H,1-3,6-7,10-13H2;1H
